US08980879B2
3-bromo-N-(2,4-difluorophenyl)-5-nitropyridin-2-amine
A mixture of 3-bromo-2-chloro-5-nitropyridine (2.374 g, 10 mmol) and 2,4-difluoroaniline (2.58 g, 20 mmol) in dimethylsulfoxide (20 mL) was heated at 100° C. for 2 hours. After cooling, the reaction mixture was partitioned between water and ethyl acetate. The organic layer was separated, and the aqueous layer was extracted with additional ethyl acetate twice. The combined organic layers were washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate filtered, and concentrated. The residue was purified on silica gel eluting with 1:20 ethyl acetate/heptanes to give the title compound (1.75 g, 5.30 mmol, 53.0% yield) as yellow crystals.

reactant | 3-bromo-2-chloro-5-nitropyridine | 10 mmol, 2.374 g | BrC=1C(=NC=C(C1)[N+](=O)[O-])Cl | C5H2BrClN2O2
reactant | 2,4-difluoroaniline | 20 mmol, 2.58 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
solvent | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
product | 3-bromo-N-(2,4-difluorophenyl)-5-nitropyridin-2-amine | 5.30 mmol, 1.75 g, 53.0% yield | BrC=1C(=NC=C(C1)[N+](=O)[O-])NC1=C(C=C(C=C1)F)F | C11H6BrF2N3O2
